US05110904
(b) FMOC-N-Me-Ser(O-Bzl)-Tyr-D-Leu-OEt
To a stirred solution of Tyr-D-Leu-OEt hydrochloride (1.649 g) in DMF (10 ml) cooled to 0° C. was added N-ethylmorpholine (0.59 ml) in DMF (1 ml), followed by a solution of FMOC-N-Me-Ser(O-Bzl)-OH (2.18 g) in DMF (5 ml), followed by a solution of HOBt (0.9315 g) in DMF (5 ml), and followed by a solution of DCC (0.947 g) in DMF (2 ml). The reaction solution was stirred at 0° C. for 1 hour and then at room temperature for 4 hours. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography eluting with (95:5) methylene chloride:methanol. The product was obtained as a semisolid. Rf 0.35. Fab Mass spec. m/e 736 (M+ +H).

reactant | Tyr-D-Leu-OEt hydrochloride | 1.649 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)OCC.Cl
reactant | N-ethylmorpholine | 0.59 ml | C(C)N1CCOCC1 | C6H13NO
reactant | FMOC-N-Me-Ser(O-Bzl)-OH | 2.18 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)(C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H25NO5
reactant | HOBt | 0.9315 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.947 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | FMOC-N-Me-Ser(O-Bzl)-Tyr-D-Leu-OEt | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)OCC)(C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C43H49N3O8
